US04247551
6-Morpholino-N-(1H-pyrrol-1-yl)-3-pyridazineamine
To 5.85 g (30 m mol) of 3-hydrazino-6-morpholino-pyridazine in 130 ml of ethanol, ethyl ether (45 ml) saturated with hydrogen chloride is added. The suspension of pale yellow precipitate which forms is additioned with 12 g (90 m mol) of 2,5-dimethoxytetrahydrofuran and the mixture is refluxed (60° C.) for 6 hours. The solvent is removed under vacuum and the residue is dissolved in water, brought to pH 8 by addition of a sodium carbonate solution and extracted with four portions (each of 100 ml) of dichloromethane. The organic extracts are pooled together, washed with water (50 ml) and anhydrified over sodium sulfate. Evaporation of the solvent yields an oil which is purified through column chromatography (silicagel, 500 g) using as the eluent a mixture of dichloromethane and ethyl acetate wherein the ratio of ethyl acetate is gradually increased from 20% to 100%. Evaporation of the more polar fraction yields 0.15 g (2%) of the product of the title which melts at 228° C.

reactant | 3-hydrazino-6-morpholino-pyridazine | 5.85 g | N(N)C=1N=NC(=CC1)N1CCOCC1 | C8H13N5O
reactant | hydrogen chloride | Cl | ClH
reactant | 2,5-dimethoxytetrahydrofuran | 12 g | COC1OC(CC1)OC | C6H12O3
solvent | ethanol | 130 ml | C(C)O | C2H6O
solvent | ethyl ether | 45 ml | C(C)OCC | C4H10O
product | 6-Morpholino-N-(1H-pyrrol-1-yl)-3-pyridazineamine | 0.15 g, 2% | O1CCN(CC1)C1=CC=C(N=N1)NN1C=CC=C1 | C12H15N5O
